US04349685
5-hydroxy-1,3-benzoxathiol-2-one (15.0 grams) was mixed with 3-ethylphenyl isocyanate (13.1 grams) in 180 milliliters of methyl ethyl ketone in the presence of 0.90 gram of triethylamine. This solution was heated at reflux temperature with stirring for 3 hours and 15 minutes. The solvent was then removed by evaporation in vacuo and the residual, viscous oil was dissolved in a hot mixture of ethyl acetate and methylcyclohexane. Upon slowly cooling to room temperature, the solution gave the purified 5-[(3-ethylphenyl)carbamoyloxy]-1,3-benzoxathiol-2-one as a white crystalline solid with a melting point of 96°-97° C. Elemental analysis calculated for C16H13NO4S (percent): carbon--60.94; hydrogen--4.15; nitrogen--4.44. Found: carbon--61.2; hydrogen--4.26; nitrogen--4.54.

reactant | 5-hydroxy-1,3-benzoxathiol-2-one | 15.0 grams | OC=1C=CC2=C(SC(O2)=O)C1 | C7H4O3S
reactant | 3-ethylphenyl isocyanate | 13.1 grams | C(C)C=1C=C(C=CC1)N=C=O | C9H9NO
reactant | triethylamine | 0.90 gram | C(C)N(CC)CC | C6H15N
solvent | methyl ethyl ketone | 180 milliliters | C(C)C(=O)C | C4H8O
product | 5-[(3-ethylphenyl)carbamoyloxy]-1,3-benzoxathiol-2-one | C(C)C=1C=C(C=CC1)NC(=O)OC=1C=CC2=C(SC(O2)=O)C1 | C16H13NO4S
